US05039806
Preparation of 4,6,7-trimethyl-5-methoxy-2-mercapto-1H-benzimidazole
A solution of 4-methoxy-3,5,6-trimethyl-1,2-phenylenediamine (1.8 g, 0.010 mol) and triethylamine (2.1 g, 0.021 mol) in CHCl3 (15 ml) was added dropwise to a stirred solution of thiophosgene (0.60 g, 0.0052 mol) in CHCl3 (5 ml). The mixture was then stirred at room temperature for 1 hour. Water (15 ml) and triethylamine (0.5 g) was added and the mixture was stirred for 1 hour. The precipitate was filtered off, washed with water and dried in the air giving the desired product (0.96 g, 43%), NMR: δ (CDCl3) 2.5 (s,3H), 2.65(s,6H), 3.65(s,3H), 12.0(br.s.,1H).

reactant | 4-methoxy-3,5,6-trimethyl-1,2-phenylenediamine | 0.010 mol, 1.8 g | COC1=C(C(=C(C(=C1C)C)N)N)C | C10H16N2O
reactant | triethylamine | 0.021 mol, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.0052 mol, 0.60 g | C(=S)(Cl)Cl | CCl2S
reactant | Water | 15 ml | O | H2O
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,6,7-trimethyl-5-methoxy-2-mercapto-1H-benzimidazole | 0.96 g, 43% | CC1=C(C(=C(C=2NC(=NC21)S)C)C)OC | C11H14N2OS
